US07960552B2
5-Bromo-4-fluoro-2-nitro-benzaldehyde (1.50 g, 6.05 mmol) and ethyl pyruvate (737.4 mg, 6.35 mmol) in ethanol (15 mL) was added via canula to zinc(II)chloride (4.12 g, 30.24 mmol), tin(II)chloride (5.73 g, 30.24 mmol), and activated 4 Å molecular sieve pellets (1.50 g) in ethanol (15 mL) under argon. The mixture was heated at 70° C. in an oil bath for four hours, then allowed to cool to room temperature, and carefully quenched with saturated sodium bicarbonate. Ethyl acetate was added and the mixture was filtered through Celite®. The filtrate was extracted with ethyl acetate and the organic layer was dried over anhydrous magnesium sulfate, then filtered and concentrated. The residue was purified by silica gel chromatography eluting with 1:6 ethyl acetate:hexanes to give 368.5 mg (20%) of ethyl 6-bromo-7-fluoro-2-quinolinecarboxylate as a solid. 1H NMR (400 MHz, d6-DMSO): δ 8.63 (d, J=8 Hz, 1H), 8.58 (d, J=9 Hz, 1H), 8.15 (s, 1H), 8.13 (s, 1H), 4.42 (q, J=7 Hz, 2H), 1.37 (t, J=7 Hz, 3H). ESI-LCMS m/z 297 (M+H)+.

reactant | 5-Bromo-4-fluoro-2-nitro-benzaldehyde | 6.05 mmol, 1.50 g | BrC=1C(=CC(=C(C=O)C1)[N+](=O)[O-])F | C7H3BrFNO3
reactant | ethyl pyruvate | 6.35 mmol, 737.4 mg | C(C(=O)C)(=O)OCC | C5H8O3
reactant | tin(II)chloride | 30.24 mmol, 5.73 g | [Sn](Cl)Cl
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | zinc(II)chloride | 30.24 mmol, 4.12 g | [Cl-].[Zn+2].[Cl-]
product | ethyl 6-bromo-7-fluoro-2-quinolinecarboxylate | 368.5 mg, 20% | BrC=1C=C2C=CC(=NC2=CC1F)C(=O)OCC | C12H9BrFNO2
